US09403831B2
1-((1-(5-bromopyrimidin-2-yl)piperidin-3-yl)methyl)-6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazine (20 mg, 0.0434 mmol), tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (20 mg, 0.053 mmol), Pd(PPh3)4 (2.6 mg, 0.0022 mmol), and Na2CO3 (17 mg, 0.13 mmol) were dissolved in THF (1 ml)+H2O (0.6 ml), and then the mixture was degassed with N2 (gas), followed by stirring at 80° C. for 2 hours. After the completion of the reaction, the reaction mixture was extracted with H2O, EA, and brine, followed by drying (Na2SO4), filtration, and concentration under reduced pressure, and the residue was purified by column chromatography (MeOH:MC=1:20), to give tert-butyl 4-(3-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate (25 mg, 90%).

reactant | 1-((1-(5-bromopyrimidin-2-yl)piperidin-3-yl)methyl)-6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazine | 0.0434 mmol, 20 mg | BrC=1C=NC(=NC1)N1CC(CCC1)CN1N=NC=2C1=NC(=CN2)C=2C=NN(C2)C | C18H19BrN10
reactant | tert-butyl 4-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolane-2-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 0.053 mmol, 20 mg | CC1(OB(OC1(C)C)C=1C=NN(C1)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H32BN3O4
reactant | Na2CO3 | 0.13 mmol, 17 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | H2O | 0.6 ml | O | H2O
catalyst | Pd(PPh3)4 | 0.0022 mmol, 2.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-butyl 4-(3-(2-(3-((6-(1-methyl-1H-pyrazol-4-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)piperidin-1-yl)pyrimidin-5-yl)-1H-pyrazol-1-yl)piperidine-1-carboxylate | 25 mg, 90% | CN1N=CC(=C1)C1=CN=C2C(=N1)N(N=N2)CC2CN(CCC2)C2=NC=C(C=N2)C2=NN(C=C2)C2CCN(CC2)C(=O)OC(C)(C)C | C31H39N13O2
